US07964649B2
5-Octyl-1-methylene-indan-2-one (16).
5-Octyl-2-indanone, 2A (5.00 g, 20.5 mmol) and ethyl formate (3.70 g, 50 mmol) are dissolved in toluene (40 mL). Sodium hydride (1.15 g, 50 mmol) is added and the reaction brought to reflux for 6 hours with continuous removal of water. The reaction mixture is cooled to room temperature and p-toluenesulfonyl chloride (3.75 g, 21.0 mmol) dissolved in THF (20 mL) added. The reaction mixture is maintained under inert atmosphere for 12 hours and filtered. The solvent is removed in vacuo to yield a viscous liquid residue. The crude reaction mixture is used without purification in the next step.

reactant | 5-Octyl-2-indanone | C(CCCCCCC)C=1C=C2CC(CC2=CC1)=O | C17H24O
reactant | ethyl formate | 50 mmol, 3.70 g | C(=O)OCC | C3H6O2
reactant | Sodium hydride | 50 mmol, 1.15 g | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 21.0 mmol, 3.75 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-Octyl-1-methylene-indan-2-one | C(CCCCCCC)C=1C=C2CC(C(C2=CC1)=C)=O | C18H24O
